US06225306B1
(2S)-1-Tosyl-2-Pyrrolidinyl Methyl Alcohol
A solution of 1-tosyl-L-proline (17.8 g) prepared in Reference Example 38 in anhydrous ether (80 ml) was dropwise added to a suspension of lithium aluminum hydride (3.76 g) in anhydrous ether (80 ml) over 30 minutes with ice-cooling. After stirring the reaction liquid at room temperature for one hour, 100 ml of ethyl acetate was added thereto and the resulting mixture was stirred for additional 16 hours. The insolubles formed was filtered off through a Celite layer, the organic phase obtained was washed with water and dried over anhydrous magnesium sulfate. The organic phase was concentrated, then the resulting residue was subjected to silica gel column chromatography and eluted with chloroform/ethyl acetate (98/2) to give 8.96 g (yield 53.1%) of the title compound.

reactant | 1-tosyl-L-proline | 17.8 g | S(=O)(=O)(C1=CC=C(C)C=C1)N1[C@H](C(=O)O)CCC1 | C12H15NO4S
reactant | lithium aluminum hydride | 3.76 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | ether | 80 ml | CCOCC | C4H10O
solvent | ether | 80 ml | CCOCC | C4H10O
product | (2S)-1-Tosyl-2-Pyrrolidinyl Methyl Alcohol | 8.96 g, yield 53.1% | S(=O)(=O)(C1=CC=C(C)C=C1)N1[C@@H](CCC1)CO | C12H17NO3S
